US03984459
b. Acetic acid-2-(3-cyanopropyl)-benzyl ester
With exclusion of humidity 12.5 g (0.25 mol) of dry NaCN were heated in 65 ml of anhydrous DMSO to 90°C and at this temperature 44.8 g (0.2 mol) of acetic acid-2-(3-chloropropyl)-benzyl ester were added dropwise. Then the mixture was heated for 50 minutes to 120°C and distributed after cooling between water and ether. The aqueous phase was extracted three times with ether, the organic phase was washed three times with a saturated sodium chloride solution, dried and concentrated under reduced pressure. The product boiled at 128°C/0.2 mm mercury.

reactant | NaCN | 0.25 mol | [C-]#N.[Na+]
reactant | acetic acid-2-(3-chloropropyl)-benzyl ester | 0.2 mol, 44.8 g | ClCCCC1=C(COC(C)=O)C=CC=C1 | C12H15ClO2
reactant | water | O | H2O
reactant | ether | CCOCC | C4H10O
solvent | DMSO | 65 ml | CS(=O)C | C2H6OS
product | Acetic acid-2-(3-cyanopropyl)-benzyl ester | C(#N)CCCC1=C(COC(C)=O)C=CC=C1 | C13H15NO2
